US09169245B2
3,5-dichloro-4-((S)-2-(3-(cyclopropylmethoxy)-4-(difluoromethoxy)phenyl)-2-((S)-thiazolidine-2-carbonyloxy)ethyl)pyridine 1-oxide (Int 4, 208 mg, 0.389 mmol), 3-formylbenzoic acid (87 mg, 0.583 mmol), EDC (149 mg, 0.777 mmol), and DMAP (57.0 mg, 0.466 mmol) were dissolved in DMF (2 ml). The reaction was stirred at RT for 8 hours to achieve completion. The reaction mixture was diluted with HCl 1N, and the precipitate was filtered, washed with HCl 1N, dissolved in DCM and extracted with HCl 1N, Na2CO3 sat and brine. The organic phase was dried over Na2SO4 and concentrated under vacuum to give 3,5-dichloro-4-((S)-2-(3-(cyclopropylmethoxy)-4-(difluoromethoxy)phenyl)-2-((S)-3-(3-formylbenzoyl)thiazolidine-2-carbonyloxy)ethyl)pyridine 1-oxide (108 mg, 0.162 mmol, 41.6% yield). The compound was used in the next step without any further purification.

reactant | 3,5-dichloro-4-((S)-2-(3-(cyclopropylmethoxy)-4-(difluoromethoxy)phenyl)-2-((S)-thiazolidine-2-carbonyloxy)ethyl)pyridine 1-oxide | 0.389 mmol, 208 mg | ClC=1C=[N+](C=C(C1C[C@H](OC(=O)[C@@H]1SCCN1)C1=CC(=C(C=C1)OC(F)F)OCC1CC1)Cl)[O-] | C22H22Cl2F2N2O5S
reactant | 3-formylbenzoic acid | 0.583 mmol, 87 mg | C(=O)C=1C=C(C(=O)O)C=CC1 | C8H6O3
reactant | EDC | 0.777 mmol, 149 mg
catalyst | DMAP | 0.466 mmol, 57.0 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
solvent | HCl | 1N | Cl | ClH
product | 3,5-dichloro-4-((S)-2-(3-(cyclopropylmethoxy)-4-(difluoromethoxy)phenyl)-2-((S)-3-(3-formylbenzoyl)thiazolidine-2-carbonyloxy)ethyl)pyridine 1-oxide | 0.162 mmol, 108 mg, 41.6% yield | ClC=1C=[N+](C=C(C1C[C@H](OC(=O)[C@@H]1SCCN1C(C1=CC(=CC=C1)C=O)=O)C1=CC(=C(C=C1)OC(F)F)OCC1CC1)Cl)[O-] | C30H26Cl2F2N2O7S
